US07718683B2
A 25 mL scintillation vial was charged with 4-tert-butyl-N-{4-chloro-5-fluoro-2-[5-(2-methanesulfonyl-ethyl)-[1,3,4]oxadiazol-2-yl]-phenyl}-benzenesulfonamide (48 mg, 0.093 mmol), methylamine (13 μL, 0.372 mmol), AcOH (21 μL, 0.372 mmol), and dioxane (1.0 mL). The vial was sealed, heated to 120° C., and stirred overnight. The following day, the volatiles were evacuated in vacuo and the residue was purified via automated silica gel chromatography to afford 4-tert-butyl-N-{4-chloro-5-fluoro-2-[5-(2-methanesulfonyl-ethyl)-4-methyl-4H-[1,2,4]triazol-3-yl]-phenyl}-benzenesulfonamide as a white powder: MS (ES) M+H expected 529.1, found 529.0.

reactant | 4-tert-butyl-N-{4-chloro-5-fluoro-2-[5-(2-methanesulfonyl-ethyl)-[1,3,4]oxadiazol-2-yl]-phenyl}-benzenesulfonamide | 0.093 mmol, 48 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C(=C1)F)Cl)C=1OC(=NN1)CCS(=O)(=O)C | C21H23ClFN3O5S2
reactant | methylamine | 0.372 mmol, 13 μL | CN | CH5N
reactant | AcOH | 0.372 mmol, 21 μL | CC(=O)O | C2H4O2
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 4-tert-butyl-N-{4-chloro-5-fluoro-2-[5-(2-methanesulfonyl-ethyl)-4-methyl-4H-[1,2,4]triazol-3-yl]-phenyl}-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C(=C1)F)Cl)C1=NN=C(N1C)CCS(=O)(=O)C | C22H26ClFN4O4S2
